US04443462
When in the procedure of Example 18, 4-(5-fluoro-1-naphthalenyloxy)piperidine is substituted for (1-methyl-2-naphthalenyloxy)piperidine and 3-bromo-1-phenylpropanol substituted for 4-chloro-1-(4-fluorophenyl)-1-butanone, α-phenyl-4-(5-fluoro-1-naphthalenyloxy)-1-piperidinepropanol is obtained.

reactant | 4-(5-fluoro-1-naphthalenyloxy)piperidine | FC1=C2C=CC=C(C2=CC=C1)OC1CCNCC1 | C15H16FNO
reactant | (1-methyl-2-naphthalenyloxy)piperidine | CC1=C(C=CC2=CC=CC=C12)ON1CCCCC1 | C16H19NO
reactant | 3-bromo-1-phenylpropanol | BrCCC(O)C1=CC=CC=C1 | C9H11BrO
reactant | 4-chloro-1-(4-fluorophenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
product | α-phenyl-4-(5-fluoro-1-naphthalenyloxy)-1-piperidinepropanol | C1(=CC=CC=C1)C(CCN1CCC(CC1)OC1=CC=CC2=C(C=CC=C12)F)O | C24H26FNO2
